### PR TITLE
chore: golf a bit

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: FLT/Basic/Reductions.lean [hunk 1]
```diff
@@ -259,9 +259,7 @@ private lemma j_pos_aux (a b : ℤ) (hb : b ≠ 0) : 0 < (a + b) ^ 2 - a * b :=
     calc
       0 < a * a + a * b + b * b := ?_
       _ = _ := by ring
-    apply add_pos_of_nonneg_of_pos
-    apply add_nonneg (mul_self_nonneg _) h
-    apply mul_self_pos.mpr hb
+    exact add_pos_of_nonneg_of_pos (add_nonneg (mul_self_nonneg _) h) (mul_self_pos.mpr hb)
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply FLT/Basic/Reductions.lean:262]:
```console
failed to prove positivity/nonnegativity/nonzeroness
```

[the remark this answers is not in the document]
Comment (YaelDillies) [reply FLT/Basic/Reductions.lean:262]: Can you try it on subexpressions until it works?

[the remark this answers is not in the document]
Comment (pitmonticone) [reply FLT/Basic/Reductions.lean:262]: I have tried, but it doesn't seem to work on subexpressions either

[the remark this answers is not in the document]
Comment (YaelDillies) [reply FLT/Basic/Reductions.lean:262]: That's because you were using `a * a` and `b * b` instead of `a ^ 2` and `b ^ 2`. Fixed now :)

File: FLT/Basic/Reductions.lean [hunk 2]
```diff
@@ -259,9 +259,7 @@ private lemma j_pos_aux (a b : ℤ) (hb : b ≠ 0) : 0 < (a + b) ^ 2 - a * b :=
...
   | inr h =>
     rw [sub_pos]
     exact h.trans_le (sq_nonneg _)
```
Comment (YaelDillies) [inline FLT/Basic/Reductions.lean:265]:
```suggestion
  rify
  calc
    (0 : ℝ) < (a ^ 2 + (a + b) ^ 2 + b ^ 2) / 2 := by positivity
    _ = (a + b) ^ 2 - a * b := by ring
```

Comment (pitmonticone) [reply FLT/Basic/Reductions.lean]: Done, thanks.

File: FLT/Basic/Reductions.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (pitmonticone) [reply FLT/Basic/Reductions.lean]: Thanks a lot!

File: FLT/Basic/Reductions.lean [hunk 3]
```diff
@@ -256,12 +256,10 @@ lemma FreyCurve.j (P : FreyPackage) :
 private lemma j_pos_aux (a b : ℤ) (hb : b ≠ 0) : 0 < (a + b) ^ 2 - a * b := by
   cases le_or_lt 0 (a * b) with
   | inl h =>
+    rify
```
Comment (YaelDillies) [inline FLT/Basic/Reductions.lean:259]:
```suggestion
  rify
```
and unindent below

File: FLT/Basic/Reductions.lean (hunk 2 above)
Comment (YaelDillies) [reply FLT/Basic/Reductions.lean]: Looks like you only golfed the first branch of the proof, while my suggestion was to unify the branches. See https://github.com/ImperialCollegeLondon/FLT/pull/212#discussion_r1835698937

File: FLT/Basic/Reductions.lean (hunk 3 above)
Comment (pitmonticone) [reply FLT/Basic/Reductions.lean]: Thank you! Done.

**Review by kbuzzard — APPROVED** [review]
can you revert the Frey-Mazur thing? Other than that this is fine.

File: FLT/Basic/Reductions.lean [hunk 4]
```diff
@@ -343,14 +336,11 @@ It follows that there is no Frey package.
 /-- There is no Frey package. This profound result is proved using
 work of Mazur and Wiles/Ribet to rule out all possibilities for the
 $p$-torsion in the corresponding Frey curve. -/
-theorem FreyPackage.false (P : FreyPackage) : False := by
-  apply Wiles_Frey P
-  exact Mazur_Frey P
+theorem FreyPackage.false (P : FreyPackage) : False :=
+  Wiles_Frey P (Mazur_Frey P)
```
Comment (kbuzzard) [inline FLT/Basic/Reductions.lean:340]:
```suggestion
theorem FreyPackage.false (P : FreyPackage) : False :=
  -- by Wiles' result, the p-torsion is not irreducible
  apply Wiles_Frey P
  -- but by Mazur's result, the p-torsion is irreducible!
  exact Mazur_Frey P
  -- Contradiction!
```

**Comment by pitmonticone** [comment]
Done @kbuzzard

**Comment by kbuzzard** [comment]
Thanks!
